US05321026
A saturated aqueous sodium chloride solution (35 cc) is added in the course of 10 minutes with stirring at 20° C. to a solution of 1-methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium methylsulphate, L series (6.15 g), in distilled water (10 cc). The oil formed is then allowed to settle, the mixture is cooled to a temperature in the region of 0° C. for 90 minutes and the supernatant is thereafter removed. The yellow oil is taken up in distilled water (3.5 cc) and saturated aqueous sodium chloride solution (17 cc) is added. The emulsion formed is separated after settling has taken place and cooled for 2 hours to a temperature in the region of 0° C., and the supernatant is removed. The yellow oil formed is dissolved in acetonitrile (80 cc) and the solution is dried 3 times over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) under a dry atmosphere at 50° C. The yellow meringue-like residue thereby obtained (4.52 g) is subjected to an azeotropic distillation in solution in 1,2-dichloroethane (80 cc) in order to remove the final traces of water, and the solution is then concentrated to dryness under reduced pressure (5 mm Hg; 0.7 kPA) at 20° C. under a dry atmosphere. The yellowish meringue-like residue thereby obtained (5 g) is stirred for 2 hours in suspension in anhydrous diethyl ether (100 cc), filtered, washed with diethyl ether (2×5 cc), drained and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 37° C. 1-Methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium chloride, L series (4.5 g), is thereby obtained in the form of an amorphous white solid, m.p. about 240° C., the infrared spectrum of which is identical to that of the product of Example 4.

reactant | sodium chloride | 35 cc | [Cl-].[Na+]
reactant | 1-methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium methylsulphate | COS(=O)(=O)[O-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O
solvent | water | 10 cc | O | H2O
solvent | acetonitrile | 80 cc | C(C)#N | C2H3N
solvent | diethyl ether | 100 cc | C(C)OCC | C4H10O
product | 1-Methyl-1-[2-(2-propylcarbamoyl-10-phenothiazinyl)propyl]pyrrolidinium chloride | [Cl-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O | InChI=1S/C24H31N3OS.ClH/c1-4-13-25-24(28)19-11-12-23-21(16-19)26(20-9-5-6-10-22(20)29-23)18(2)17-27(3)14-7-8-15-27;/h5-6,9-12,16,18H,4,7-8,13-15,17H2,1-3H3;1H
